US09127024B2
Step 1: 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid
To a 300 ml round bottom three neck flask equipped with condenser, magnetic stirrer and an inert-gas outlet, were added 3-iodo-2-Methyl-Benzoic acid (10 g, 38.2 mmol), Bis(pinacolato)diboron (11.64 g, 46.0 mmol), potassium acetate (11.23 g, 112.0 mmol) and 100 ml of anhydrous DMSO. The flask was purged with nitrogen for 15-20 min. The catalyst dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane (0.85 g, 1.1 mmol) was added through an open neck under slight positive nitrogen flow. The reaction mixture was stirred at 80° C. overnight. The reaction mixture was allowed to cool then poured into 500 ml of water. After 1 hour of stirring at room temperature, a brownish precipitant was filtered onto fritted filter funnel and washed with water. The precipitant was redissolved in 200 ml of ether and filtered through a 1″ thick layer of celite to remove traces of Pd. The filter cake was washed with 100 ml ether. The combined etherial solution was washed with 4×200 ml of 2N NaOH. The water phases were combined and acidified with 6N HCl until pH=5-6 (approx 100 ml). A white precipitant was filtered onto fritted filter, washed with 200 ml of water, and dried in a vacuum oven at 60° C. for 2 hours. The filtrate was placed into fridge for overnight, and a second crop of white precipitant was isolated via filtration. Overall amount of product obtained was 5.5 g (55% yield). 1H NMR (CDCl3, 300 MHz) δ 8.05 (d, 1H), 7.9 (d, 1H), 7.25 (t, 1H), 2.6 (s, 3H), 1.4 (s, 12H).

reactant | 3-iodo-2-Methyl-Benzoic acid | 38.2 mmol, 10 g | IC=1C(=C(C(=O)O)C=CC1)C | C8H7IO2
reactant | Bis(pinacolato)diboron | 46.0 mmol, 11.64 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 112.0 mmol, 11.23 g | C(C)(=O)[O-].[K+]
reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane | 1.1 mmol, 0.85 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 500 ml | O | H2O
product | 2-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid | 55% yield | CC1=C(C(=O)O)C=CC=C1B1OC(C(O1)(C)C)(C)C | C14H19BO4
